US04551457
2-amino-thiazole (3.06 g) was reacted with ethyl 2-methylacetoacetate (6.4 g) in polyphosphoric acid (15.3 g: 7.1 g of P2O5 and 8.2 g of 99% H3PO4) under stirring at 100° C. for two hours. After cooling, dilution with ice water and neutralization, the precipitate was filtered, washed with water and crystallized from isopropyl ether to give 6,7-dimethyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 112°-113° C. (5.04 g), which was reacted with 3-pyridine-carboxaldehyde (5.99 g) in methanol (130 ml) in the presence of sodium methoxide (4.55 g) under stirring at reflux temperature for 12 hours. After cooling the precipitate was filtered and washed with water until neutral: crystallization from methanol gave 3.2 g of 6-methyl-7-trans-[2-(3-pyridyl)-ethenyl]-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 192°-194° C., NMR (CDCl3) δ ppm: 2.36 (s) (3H, CH3), 6.97 (d) (H, C-2 proton), 7.38 (dd) (1H, C-5 pyridyl proton), 7.38 (d) (1H, β-ethenyl proton), 7.91 (d) (1H, α-ethenyl proton), 7.97 (d) (1H, C-3 proton), 8.00 (m) (1H, C-4 pyridyl proton), 8.62 (dd) (1H, C-6 pyridyl proton), 8.88 (d) (1H, C-2 pyridyl proton); JHα Hβ =16 Hz.

reactant | 2-amino-thiazole | 3.06 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl 2-methylacetoacetate | 6.4 g | CC(C(=O)OCC)C(=O)C | C7H12O3
product | 6,7-dimethyl-5H-thiazolo[3,2-a]pyrimidine-5-one | CC1=C(N=C2N(C1=O)C=CS2)C | C8H8N2OS
